US04242518
80 parts of 3-hydroxy-dihydrothiophene-2-carboxylic acid methyl ester are dissolved in 250 parts by volume of methylene chloride. 67.5 parts of sulfuryl chloride in 100 parts by volume of methylene chloride are added in the course of one hour at from 0° to 5° C., whilst passing nitrogen into the mixture. The mixture is then stirred for 2 hours at from 0° to 5° C. 50 parts of triethylamine are then added at from 0° to 5° C. and the pH is brought to 7.5 with more triethylamine. The mixture is stirred for 2 hours at 0° C. and is then brought to pH 5 by means of 10 percent strength by weight hydrochloric acid. The mixture is separated into its phases and the organic phase is washed with twice 100 parts by volume of saturated sodium chloride solution, dried, concentrated and distilled. 65 parts (82% of theory) of 3-hydroxy-thiophene-2-carboxylic acid methyl ester of boiling point 68°-73° C./0.4 mbar and melting point 42°-43° C. are obtained.

reactant | 3-hydroxy-dihydrothiophene-2-carboxylic acid methyl ester | COC(=O)C1SC=CC1O | C6H8O3S
reactant | sulfuryl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-hydroxy-thiophene-2-carboxylic acid methyl ester | 82% | COC(=O)C=1SC=CC1O | C6H6O3S
